US07179823B1
To a solution of ethyl 3-[3-hydroxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate (435 mg) in N,N-dimethylformamide (10 ml), sodium hydride (60%, oily, 120 mg) was added at 0° C., and then the solution was stirred at room temperature for 30 minutes. 3-Picolyl chloride (574 mg) was added to the reaction mixture, which was stirred at room temperature for one hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with dilute hydrochloric acid, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-(3-pyridylmethoxy)-1-[4-(3-pyridylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate (533 mg, yield: 75%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate.

reactant | ethyl 3-[3-hydroxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate | 435 mg | OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)O | C15H18N2O4
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | 3-Picolyl chloride | 574 mg | N1=CC(=CC=C1)CCl | C6H6ClN
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-(3-pyridylmethoxy)-1-[4-(3-pyridylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | 533 mg, yield: 75% | N1=CC(=CC=C1)COC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1C=NC=CC1 | C27H28N4O4
